US08895571B2
Step C: 6-[(1S)-2-amino-1-benzyl-ethyl]-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one
A mixture of ethyl 4-(bromomethyl)-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)pyrimidine-5-carboxylate (284.0 mg, 0.7898 mmol), tert-butyl[(2S)-2-amino-3-phenylpropyl]carbamate (198 mg, 0.791 mmol), and N,N-diisopropylethylamine (0.275 mL, 1.58 mmol) in 1-butanol (5.0 mL) was stirred at 140° C. for 2 h. The reaction mixture was evaporated under reduced pressure to give an oil residue, which was dissolved in 4 M HCl aqueous solution (2 mL, 8 mmol) and THF (2 mL). The resulting solution was stirred at room temperature for 1 hour. Direct purification on prep.HPLC afforded 81 mg (25.6% yield) of the desired product. LC-MS found: 383.1 (M+H)+.

reactant | ethyl 4-(bromomethyl)-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)pyrimidine-5-carboxylate | 0.7898 mmol, 284.0 mg | BrCC1=NC(=NC=C1C(=O)OCC)C1=C(C=NN1C)Cl | C12H12BrClN4O2
reactant | tert-butyl[(2S)-2-amino-3-phenylpropyl]carbamate | 0.791 mmol, 198 mg | C(C)(C)(C)OC(NC[C@H](CC1=CC=CC=C1)N)=O | C14H22N2O2
reactant | N,N-diisopropylethylamine | 1.58 mmol, 0.275 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 8 mmol, 4 M, 2 mL | Cl | ClH
solvent | 1-butanol | 5.0 mL | C(CCC)O | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-[(1S)-2-amino-1-benzyl-ethyl]-2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one | 81 mg, 25.6% yield | NC[C@H](CC1=CC=CC=C1)N1CC=2N=C(N=CC2C1=O)C1=C(C=NN1C)Cl | C19H19ClN6O
